US07307075B2
(S)-4-(3-Iodo-2-methylpropyl)-6-methyl-4H-benzo[1,4]oxazin-3-one (101IS70)
A dry 50 mL r-flask was charged with (S)-4-(3-hydroxy-2-methylpropyl)-6-methyl-4H-benzo[1,4]oxazin-3-one (1.0 g, 4.2 mmol), PPh3 (2.2 g, 8.5 mmol), imidazole (0.58 g, 8.5 mmol) and dissolved with CH2Cl2 (25 mL). Iodine (2.2 g, 8.4 mmol) was then added in small portions over 4 h period. After the last addition the reaction was poured onto SiO2 and filtered. Concentration under reduced pressure yielded the crude title compound (1.5 g), which was used without further purification.

reactant | (S)-4-(3-hydroxy-2-methylpropyl)-6-methyl-4H-benzo[1,4]oxazin-3-one | 4.2 mmol, 1.0 g | OC[C@H](CN1C(COC2=C1C=C(C=C2)C)=O)C | C13H17NO3
reactant | PPh3 | 8.5 mmol, 2.2 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | imidazole | 8.5 mmol, 0.58 g | N1C=NC=C1 | C3H4N2
reactant | Iodine | 8.4 mmol, 2.2 g | II | I2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | (S)-4-(3-Iodo-2-methylpropyl)-6-methyl-4H-benzo[1,4]oxazin-3-one | 1.5 g | IC[C@H](CN1C(COC2=C1C=C(C=C2)C)=O)C | C13H16INO2
